US06346541B1
N-(6-(4-Chlorophenylaminothiocarbonyloxy)hexyl)-N′-cyano-N″-4-pyridylguanidine (Compound 107)
N-Cyano-N′-(6-hydroxyhexyl)-N″-4-pyridylguanidine (0.5 g), 4-chlorophenyl isothiocyanate (0.4 g) and diisopropylethylamine (0.32 ml) was mixed in a two-necked flask with a three-way-tap and a septum. The air was exchanged with argon through the three-way-tap. Dry pyridine (10 ml) was added through the septum. The reaction mixture was stirred for 5 days at room temperature.

reactant | N-Cyano-N′-(6-hydroxyhexyl)-N″-4-pyridylguanidine | 0.5 g | C(#N)NC(=NC1=CC=NC=C1)NCCCCCCO | C13H19N5O
reactant | 4-chlorophenyl isothiocyanate | 0.4 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | diisopropylethylamine | 0.32 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-(6-(4-Chlorophenylaminothiocarbonyloxy)hexyl)-N′-cyano-N″-4-pyridylguanidine | ClC1=CC=C(C=C1)NC(=S)OCCCCCCNC(=NC1=CC=NC=C1)NC#N | C20H23ClN6OS
